US04818273
Preparation of N-(2,6-dichloro-3-methylphenyl)-5,7-dimethoxy-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
Sodium (469 mg, 20.4 mmol) was added to 25 ml of methanol under nitrogen and allowed to react. The resulting solution was allowed to cool and then 2.14 g (5.0 mmol) of N-(2,6-dichloro-3-methylphenyl)-5,7-dichloro-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide were added with stirring. After about one hour, 1 ml of acetic acid was added and the mixture was poured into about 150 ml of ice water. The solid present was collected by filtration and dried to obtain 1.76 g (84.2 percent of theory) of the title compound as a white powder, m.p. 218°-221° C.

reactant | Sodium | 20.4 mmol, 469 mg | [Na] | Na
reactant | methanol | 25 ml | CO | CH4O
reactant | N-(2,6-dichloro-3-methylphenyl)-5,7-dichloro-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 5.0 mmol, 2.14 g | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2Cl)Cl)=N1 | C12H7Cl4N5O2S
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | N-(2,6-dichloro-3-methylphenyl)-5,7-dimethoxy-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2OC)OC)=N1 | C14H13Cl2N5O4S
